US04968819
Preparation of 7-sec.-butoxy-8-hydroxy-2,2-dimethyl-4-chromanone
In 80 ml of dimethyl sulfoxide 4.2 g (20 millimoles) of 7.8-dihydroxy-2,2-dimethyl-4-chromanone are dissolved, whereupon 10 ml of diethylene glycol dimethylether, 4.1 g (30 millimoles) of potassium carbonate, 0.5 g of potassium iodide and 3.3 (2.6 ml, 24 millimoles) of sec. butyl bromide are added. The reaction mixture is heated at 100° C. for 10 hours, poured onto 200 ml of crushed ice and extracted with 100 ml of carbon tetrachloride. To the aqueous phase 20 ml of 10% sodium hydroxide solution are added, the mixture is cooled to 0° C., acidified with concentrated hydrochloric acid and stirred at 0° C. for 2 hours. The product is filtered, washed twice with 20 ml of water, dried and crystallized from 20% ethanol. Thus 4.4. g of the desired compound are obtained, yield 83%, mp.: 108°-110° C.

reactant | dimethyl sulfoxide | 20 millimoles, 80 ml, 4.2 g | CS(=O)C | C2H6OS
reactant | potassium carbonate | 30 millimoles, 4.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
reactant | sec. butyl bromide | C(C)(CC)Br | C4H9Br
reactant | 7.8-dihydroxy-2,2-dimethyl-4-chromanone | OC1=CC=C2C(CC(OC2=C1O)(C)C)=O | C11H12O4
solvent | diethylene glycol dimethylether | 10 ml | COCCOCCOC | C6H14O3
product | 7-sec.-butoxy-8-hydroxy-2,2-dimethyl-4-chromanone | yield 83% | C(C)(CC)OC1=CC=C2C(CC(OC2=C1O)(C)C)=O | C15H20O4
